US06180627B2
2-[3-({[(2R)-1-(cyclopropylmethyl)pyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid hydrochloride
The title compound was prepared by a similar method to preparation 44 from benzyl 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)pyrrolidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate [see preparation 47] and palladium hydroxide to afford the product as a oil, 352 mg, (100%).

reactant | benzyl 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)pyrrolidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCC1)CC1CC1)=O)CC(=O)OCC1=CC=CC=C1)C | C23H29ClN4O3
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 2-[3-({[(2R)-1-(cyclopropylmethyl)pyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid hydrochloride | Cl.C1(CC1)CN1[C@H](CCC1)CNC=1C(N(C(=CN1)C)CC(=O)O)=O | InChI=1S/C16H24N4O3.ClH/c1-11-7-17-15(16(23)20(11)10-14(21)22)18-8-13-3-2-6-19(13)9-12-4-5-12;/h7,12-13H,2-6,8-10H2,1H3,(H,17,18)(H,21,22);1H/t13-;/m1./s1
